US07629469B2
Previously known processes for producing paliperidone have low yields and produce large amounts of HCl gas as a by-product. In U.S. Pat. No. 5,158,952 (its European counterpart is EP0368388), a process is disclosed wherein 2-amino-3-benzyloxypyridine (I′) was reacted with 1.7 mole equivalents 2-acetyl-4-butyrolactone in the presence of 5.5 mole equivalents phosphoryl chloride in toluene. The reaction mixture was stirred for 5 hours at 90° C. Another 1.7 mole equivalents of 2-acetyl-4-butyrolactone were then added and the stirring was continued for 30 minutes at 90° C. The solution was allowed to stand overnight at 90° C. The whole was poured into crushed ice and treated with an ammonium hydroxide solution 25%. The product was extracted with trichloromethane. The extract was dried, filtered and evaporated. The residue was purified by column chromatography over silica gel using a mixture of trichloromethane and methanol (98:2 by volume) as eluent. The pure fractions were collected and the eluent was evaporated. The residue was stirred in 2-propanol. The product was filtered off, washed with a mixture of 2-propanol and 1,1′-oxybisethane and dried at 50° C., yielding 20.5 mole equivalents (Yield: 62.3%) of 3-(2-chloroethyl)-2-methyl-9-(phenylmethoxy)-4H-pyrido[1,2-a]pyrimidin-4-one; mp. 141.1° C. See the scheme shown below.

reactant | 2-amino-3-benzyloxypyridine | NC1=NC=CC=C1OCC1=CC=CC=C1 | C12H12N2O
reactant | 2-acetyl-4-butyrolactone | C(C)(=O)C1C(=O)OCC1 | C6H8O3
reactant | phosphoryl chloride | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | ammonium hydroxide | [OH-].[NH4+]
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 3-(2-chloroethyl)-2-methyl-9-(phenylmethoxy)-4H-pyrido[1,2-a]pyrimidin-4-one | Yield: 62.3% | ClCCC1=C(N=C2N(C1=O)C=CC=C2OCC2=CC=CC=C2)C | C18H17ClN2O2
